US04226768
8-Chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][1,4]benzodiazepine 5-oxide
A mixture of 4.2 g (0.01 mole) of 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-hydroxy-α-(4-morpholinyl)-1H-1,4-benzodiazepine-2-methanimine 4-oxide, 50 ml of glacial acetic acid and 4 ml of acetaldehyde was heated to reflux for 5 minutes. The cooled reaction mixture was poured on ice, made alkaline with ammonia and extracted with methylene chloride. The extracts were dried and evaporated and the residue was crystallized from ether/2-propanol to yield yellow crystals.

reactant | 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-hydroxy-α-(4-morpholinyl)-1H-1,4-benzodiazepine-2-methanimine 4-oxide | 0.01 mole, 4.2 g | ClC=1C=CC2=C(C(=[N+](CC(N2)C(=NO)N2CCOCC2)[O-])C2=C(C=CC=C2)F)C1 | C20H20ClFN4O3
reactant | acetaldehyde | 4 ml | C(C)=O | C2H4O
reactant | ammonia | N | H3N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][1,4]benzodiazepine 5-oxide | ClC=1C=CC2=C(C(=[N+](CC=3N2C(=NC3N3CCOCC3)C)[O-])C3=C(C=CC=C3)F)C1 | C22H20ClFN4O2
